US07709496B2
Preparation of 6-[({1-[2-(2-oxo-2H-chromen-8-yl)ethyl]-4-piperidinyl}amino)methyl]-2H-Pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of 8-[2-(4-amino-1-piperidinyl)ethyl]-2H-chromen-2-one hydrochloride (41 mg, 0.15 mmol), Et3N (0.10 mL), in 10% methanol/CH2Cl2 (5 mL) was added 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (32 mg, 0.17 mmol). The solution was allowed to stir at RT for 16 h, then sodium borohydride (7 mg, 0.17 mmol) was added. The solution was stirred for an additional 30 min then was concentrated under reduced pressure. Flash chromatography on silica gel (90:9:1 CHCl3/MeOH/conc NH4OH) gave the title compound (34 mg, 51%) as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 7.99 (d, J=9.6 Hz, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.50-7.62 (m, 2H), 7.32 (m, 1H), 7.11 (d, J=7.8 Hz, 1H), 6.47 (d, J=9.6 Hz, 1H), 4.17 (s, 2H), 3.57 (s, 2H), 3.36-3.04 (m, 5H), 3.00-2.84 (m, 2H), 2.62-2.38 (m, 2H), 2.33-2.10 (m, 2H), 1.87-1.62 (m, 2H); MS (ES) m/e 451.1 (M+H)+.

reactant | 8-[2-(4-amino-1-piperidinyl)ethyl]-2H-chromen-2-one hydrochloride | 0.15 mmol, 41 mg | Cl.NC1CCN(CC1)CCC=1C=CC=C2C=CC(OC12)=O
reactant | Et3N | 0.10 mL | CCN(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 0.17 mmol, 32 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | sodium borohydride | 0.17 mmol, 7 mg | [BH4-].[Na+]
solvent | methanol CH2Cl2 | 5 mL | CO.C(Cl)Cl
product | 6-[({1-[2-(2-oxo-2H-chromen-8-yl)ethyl]-4-piperidinyl}amino)methyl]-2H-Pyrido[3,2-b][1,4]thiazin-3(4H)-one | 34 mg, 51% | O=C1OC2=C(C=CC=C2C=C1)CCN1CCC(CC1)NCC=1C=CC=2SCC(NC2N1)=O | C24H26N4O3S
